US07943629B2
(RS)—S-Methyl-S-(4-nitrophenyl)-N-[(4-nitrophenyl)sulphonyl]sulphimide
879 mg (2.73 mmol) of iodosobenzene diacetate are added to a suspension of 300 mg (1.77 mmol) of 1-methylsulphanyl-4-nitrobenzene, 716 mg (3.55 mmol) of 4-nitrobenzenesulphonamide, 285 mg (7.10 mmol) of magnesium oxide and 78 mg (0.18 mmol) of rhodium(II) acetate dimer in 12 ml of dichloromethane at room temperature. The mixture is stirred for 24 h and then concentrated. The resulting residue is purified by chromatography (dichloromethane/ethanol 95:5). 484 mg (1.31 mmol; yield: 74%) of the product are obtained.

reactant | iodosobenzene diacetate | 2.73 mmol, 879 mg | C(C)(=O)O.C(C)(=O)O.I(=O)C1=CC=CC=C1
reactant | 1-methylsulphanyl-4-nitrobenzene | 1.77 mmol, 300 mg | CSC1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO2S
reactant | 4-nitrobenzenesulphonamide | 3.55 mmol, 716 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | magnesium oxide | 7.10 mmol, 285 mg | [O-2].[Mg+2]
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
catalyst | rhodium(II) acetate dimer | 0.18 mmol, 78 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | (RS)—S-Methyl-S-(4-nitrophenyl)-N-[(4-nitrophenyl)sulphonyl]sulphimide | yield: 74% | CS(=NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C13H11N3O6S2
